US05041673
A mixture of α, α-diethoxymethyl-β-nitro-4-hexylbenzenepropanol (2.31 g) and Raney nickel (0.6 g) in isopropanol (70 ml) was stirred under hydrogen at atmospheric pressure until the hydrogen absorption was complete. The mixture was degased in vacuo for 15 minutes and filtered through celite. Evaporation of solvent gave α, α-diethoxymethyl-β-amino-4-hexylbenzenepropanol (1.82 g) as an oil. This oil was reacted with di-tert-butyl-dicarbonate (1.19 g) in methanol (40 ml). The mixture was stirred at room temperature for 2 hours. The solvent was evaporated and the residue was purified by chromatography [silica gel 290 g, elution with ethyl acetate: cyclohexane, 2:8 (2 1)]. Two isomers of the title compound were isolated. Isomer A (0.90 g) and isomer B (0.90 g) were obtained as oils, Rf isomer A=0.30, Rf isomer B=0.19 (silica gel, ethyl acetate: cyclohexane, 1:4)

reactant | α, α-diethoxymethyl-β-nitro-4-hexylbenzenepropanol | 2.31 g | C(C)OCC(C(CC1=CC=C(C=C1)CCCCCC)[N+](=O)[O-])(O)COCC | C21H35NO5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.6 g | [Ni] | Ni
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | α, α-diethoxymethyl-β-amino-4-hexylbenzenepropanol | 1.82 g | C(C)OCC(C(CC1=CC=C(C=C1)CCCCCC)N)(O)COCC | C21H37NO3
